US04866064
A mixture of 19.7 g of the thus obtained 2-amino-5-heptylthio-1,3,4-thiadiazole, 40.9 g of bis (2,4,6-trichlorophenyl) 2-methyl-malonate and 55 ml of chlorobenzene was stirred at 140°~144° C. for 45 minutes. After cooling, n-hexane was added thereto, the precipitate was collected by filtration. Further n-hexane was added to the filtrate, and the precipitate was collected. The collected precipitates were combined. The combinedprecipitate was washed with n-hexane and thus 21.2 g of 2-heptylthio-7-hydroxy-6-methyl-5H-1,3,4-thiadiazolo-[3,2-a]pyrimidin-5-one was obtained.

reactant | 2-amino-5-heptylthio-1,3,4-thiadiazole | NC=1SC(=NN1)SCCCCCCC | C9H17N3S2
reactant | bis (2,4,6-trichlorophenyl) 2-methyl-malonate | 40.9 g | CC(C(=O)OC1=C(C=C(C=C1Cl)Cl)Cl)C(=O)OC1=C(C=C(C=C1Cl)Cl)Cl | C16H8Cl6O4
reactant | chlorobenzene | 55 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | n-hexane | CCCCCC | C6H14
product | 2-heptylthio-7-hydroxy-6-methyl-5H-1,3,4-thiadiazolo-[3,2-a]pyrimidin-5-one | 21.2 g, Yield 78% | C(CCCCCC)SC1=NN2C(=NC(=C(C2=O)C)O)S1 | C13H19N3O2S2
